US07728009B1
Step 4. Preparation of 4-methyl-5-naphthalen-1-yl-thiazole-2-carboxylic acid
To a solution of 4-methyl-5-naphthalen-1-yl-thiazole-2-carboxylic acid ethyl ester (30 mg, 0.10 mmol) in water (1 ml) and THF (1 ml) is added sodium hydroxide (0.2 mL, 1M, 0.20 mmol). The reaction mixture is stirred at rt for 1 hr, and then extracted with ethyl ether (30 mL). The aqueous layer is acidified to pH<7.0 by phosphate buffer and then extracted with EtOAc (2×50 mL). The combined organic layers are washed with brine, dried over MgSO4, and then concentrated. The crude product is used in the next step without further purification.

reactant | 4-methyl-5-naphthalen-1-yl-thiazole-2-carboxylic acid ethyl ester | 0.10 mmol, 30 mg | C(C)OC(=O)C=1SC(=C(N1)C)C1=CC=CC2=CC=CC=C12 | C17H15NO2S
reactant | sodium hydroxide | 0.20 mmol, 1M, 0.2 mL | [OH-].[Na+]
solvent | water | 1 ml | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 4-methyl-5-naphthalen-1-yl-thiazole-2-carboxylic acid | CC=1N=C(SC1C1=CC=CC2=CC=CC=C12)C(=O)O | C15H11NO2S
